US05631401
N-(4-Phenoxybenzyl)-N-(3-methoxyphenethyl)amine
A solution of 4-benzoxybenzaldehyde (2.5 g, 12.6 mmol), 3-methoxyphenethylamine (1.9 g, 12.6 mmol), a catalytic amount of p-toluenesulfonic acid monohydrate in absolute ethanol (12 mL) was stirred at 80° C. for 1.5 hours. After cooling to room temperature, NaBH4 (0.49 g, 13.0 mmol) was added in portions. The reaction mixture was stirred at 80° C. for 1 hour, then cooled to room temperature, and the ethanol was removed in vacuo. Water was added to the residue and the mixture was extracted with ethyl acetate. The combined extracts were washed with saturated NaCl, dried over MgSO4, filtered, and the solvent removed in vacuo to afford a colorless oil which was purified by silica gel chromatography eluting with 20% ethyl acetate in hexane saturated with NH3 to afford the title compound (3.2 g, 76%) as a colorless oil. MS (DCl/NH3) m/e 334 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 2.82 (t, 2H), 2.92 (t, 2H), 3.77 (s, 2H), 3.80 (s, 3H), 6.80 (m, 3H), 6.98 (m, 3H), 6.08 (t, 1H), 7.22 (m, 3H), 7.32 (t, 2H).

reactant | 4-benzoxybenzaldehyde | 12.6 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | 3-methoxyphenethylamine | 12.6 mmol, 1.9 g | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaBH4 | 13.0 mmol, 0.49 g | [BH4-].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | N-(4-Phenoxybenzyl)-N-(3-methoxyphenethyl)amine | 3.2 g, 76% | O(C1=CC=CC=C1)C1=CC=C(CNCCC2=CC(=CC=C2)OC)C=C1 | C22H23NO2
